US08383821B2
tert-Butyl 4-phenyl-4-((3-(2,2,2-trifluoroacetamido)-5-(trifluoromethyl)benzyloxy)methyl)piperidine-1-carboxylate.
tert-Butyl 4-((3-amino-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (90 mg, 0.19 mmol) and triethylamine (52.0 μL, 0.37 mmol) were combined in methylene chloride (2 mL) and cooled to 0° C. The reaction was treated with trifluoroacetic anhydride (33.0 μL, 0.23 mmol), stirred at 0° C. for 2 h, and at room temperature overnight. The reaction was cooled to 0° C., quenched by addition of a few drops of methanol and concentrated. Flash chromatography on silica gel (40% ethyl acetate/hexanes) gave 106 mg (98%). LC/MS (HPLC method 3): tR=3.38 min, 561.18 (MH)+.

reactant | tert-Butyl 4-((3-amino-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.19 mmol, 90 mg | NC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C25H31F3N2O3
reactant | triethylamine | 0.37 mmol, 52.0 μL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.23 mmol, 33.0 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-phenyl-4-((3-(2,2,2-trifluoroacetamido)-5-(trifluoromethyl)benzyloxy)methyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC(=C1)C(F)(F)F)NC(C(F)(F)F)=O | C27H30F6N2O4
